US08304419B2
7-amino-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-indole-2-carboxamide
Trifluoroacetic acid (0.028 mL, 0.369 mmol) was added to a solution of 1,1-dimethylethyl (2-{[({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)amino]carbonyl}-1H-indol-7-yl)carbamate (0.021 g, 0.037 mmol) in dichloromethane. The mixture was stirred at RT overnight. The solvent was evaporated and the residue was purified by Reverse-Phase HPLC (water/acetonitrile with 0.1% TFA) to give the title compound (0.009 g, 45%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 11.46 (s, 1H), 9.07 (s, 1H), 7.81 (s, 1H), 7.43-7.58 (m, 3H), 7.32-7.43 (m, 1H), 7.09-7.22 (m, 2H), 6.82-6.97 (m, 1H), 6.62-6.75 (m, 1H), 4.58 (s, 2H), 4.20 (br s, 2H). MS: m/z 469 (M+1).

reactant | Trifluoroacetic acid | 0.369 mmol, 0.028 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1,1-dimethylethyl (2-{[({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)amino]carbonyl}-1H-indol-7-yl)carbamate | 0.037 mmol, 0.021 g | ClC1=C(C(=C(C=C1)CNC(=O)C=1NC2=C(C=CC=C2C1)NC(OC(C)(C)C)=O)F)OC1=CC(=CC(=C1)C#N)Cl | C28H23Cl2FN4O4
solvent | dichloromethane | ClCCl | CH2Cl2
product | 7-amino-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-indole-2-carboxamide | 0.009 g, 45% | NC=1C=CC=C2C=C(NC12)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F | C23H15Cl2FN4O2
